US09227976B2
2-[(3R)-3-fluoropyrrolidin-1-yl]ethanol was synthesized as followed: a suspension of (3R)-3-fluoropyrrolidine hydrochloride (1 g, 8 mmol) in CH2Cl2 was cooled to 0° C. Triethylamine (2.79 mL, 20 mmol) and methyl bromoacetate (0.83 mL, 8.8 mmol) were added and the reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with CH2Cl2 and water. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic phases were dried (phase separator cartridge) and concentrated in vacuo, yielding methyl 2-[(3R)-3-fluoropyrrolidin-1-yl]acetate, which was used in the next step without further purification (1.29 g). A solution of lithium aluminium hydride in THF (2 M, 8 mL, 6 mmol) was slowly added to a solution of methyl 2-[(3R)-3-fluoropyrrolidin-1-yl]acetate (1.29 g, 8 mmol) in THF (72 mL). The reaction mixture was stirred at 70° C. for 2 h. The reaction mixture was cooled to 0° C. and ice-cold 10% KOH aqueous solution was added slowly. The reaction mixture was filtered and the solid was washed with 10% KOH aqueous solution and hot ethyl acetate. The layers were separated and the aqueous was extracted with ethyl acetate. The combined organics were dried (MgSO4), filtered and concentrated in vacuo, yielding 2-[(3R)-3-fluoropyrrolidin-1-yl]ethanol as an oil (779 mg).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-[(3R)-3-fluoropyrrolidin-1-yl]acetate | 8 mmol, 1.29 g | F[C@H]1CN(CC1)CC(=O)OC | C7H12FNO2
solvent | THF | 72 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mmol, 2 M, 8 mL | C1CCOC1 | C4H8O
product | 2-[(3R)-3-fluoropyrrolidin-1-yl]ethanol | 779 mg | F[C@H]1CN(CC1)CCO | C6H12FNO
